US05212169
(d) Preparation of N-[2-(8-chloro-10,11-dihydrodibenz[b,f][1,4]oxazepin-10-yl)-2-oxoethyl]-4-pyridinepropanamide, monohydrochloride
Triethylamine (0.8 mL) was added to a stirred mixture of 10-(aminoacetyl)-8-chloro-10,11-dihydrodibenz-[b,f][1,4]oxazepine (0.77 gram) and 4-pyridinepropanoic acid, monohydrochloride (0.50 gram) in dimethylformamide (10 mL) at room temperature under a nitrogen atmosphere. After 5 minutes, the mixture was cooled to 5° C. in an ice bath, and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide, hydrochloride (0.56 gram) was added. The reaction was stirred at room temperature under a nitrogen atmosphere for 60 hours, partitioned between saturated aqueous sodium bicarbonate (100 mL) and ethyl acetate (75 mL), and filtered. The layers of the filtrate were separated, and the aqueous layer was extracted with ethyl acetate (2×50 mL). The ethyl acetate extracts were combined, washed with aqueous saturated sodium bicarbonate (2×100 mL), water (100 mL), and brine (100 mL), dried over MgSO4, and evaporated in vacuo. The crude product was purified by flash chromatography through silica gel 60 (350 mL) using 9:1 ethyl acetate:ethanol. The purified product was taken up in ethyl acetate and treated with 9.5 M HCl in ethanol to pH 1. The precipitated product was collected by filtration and dried in vacuo at 80° C. Yield: 0.233 gram (19%). Analysis calculated for C23H20ClN3O3 ×1 HCl: C, 60.27; H, 4.62; N, 9.17; Cl, 15.47. Found: C, 59.88; H, 4.66; N, 8.99; Cl, 15.58.

reactant | Triethylamine | 0.8 mL | C(C)N(CC)CC | C6H15N
reactant | 10-(aminoacetyl)-8-chloro-10,11-dihydrodibenz-[b,f][1,4]oxazepine | 0.77 gram | NCC(=O)N1C2=C(OC3=C(C1)C=CC=C3)C=CC(=C2)Cl | C15H13ClN2O2
reactant | 4-pyridinepropanoic acid, monohydrochloride | 0.50 gram | Cl.N1=CC=C(C=C1)CCC(=O)O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide, hydrochloride | 0.56 gram | Cl.CN(CCCN=C=NCC)C
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | N-[2-(8-chloro-10,11-dihydrodibenz[b,f][1,4]oxazepin-10-yl)-2-oxoethyl]-4-pyridinepropanamide, monohydrochloride | Cl.ClC1=CC2=C(OC3=C(CN2C(CNC(CCC2=CC=NC=C2)=O)=O)C=CC=C3)C=C1 | InChI=1S/C23H20ClN3O3.ClH/c24-18-6-7-21-19(13-18)27(15-17-3-1-2-4-20(17)30-21)23(29)14-26-22(28)8-5-16-9-11-25-12-10-16;/h1-4,6-7,9-13H,5,8,14-15H2,(H,26,28);1H
